US09315521B2
To a 0° C. mixture of LAH (270 mg, 7.1 mmol) in anhydrous THF (10 mL) was slowly added a solution of ethyl 3,5-diethyl-1,2-oxazole-4-carboxylate (826 mg, 4.7 mmol) in anhydrous THF (10 mL). The mixture was stirred at 0° C. for 5 hours, and the mixture was then quenched with 5 N NaOH. Water (50 mL) and EtOAc (50 mL) were added. The mixture was stirred for 30 minutes. The solids were filtered, and the organic layer was recovered. The aqueous layer was extracted with EtOAc (1×50 mL). The combined organic extracts were washed with brine (1×200 mL), dried over MgSO4, filtered, evaporated, and dried in vacuo, affording (3,5-diethyl-1,2-oxazol-4-yl)methanol (710 mg, 97% yield), which was used without further purification.

reactant | LAH | 7.1 mmol, 270 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | ethyl 3,5-diethyl-1,2-oxazole-4-carboxylate | 4.7 mmol, 826 mg | C(C)C1=NOC(=C1C(=O)OCC)CC | C10H15NO3
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (3,5-diethyl-1,2-oxazol-4-yl)methanol | 710 mg, 97% yield | C(C)C1=NOC(=C1CO)CC | C8H13NO2
